US08975264B2
Step 3: Preparation of 2-(methoxymethyl)-7-(3-(trifluoromethyl)phenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 96)
3-(Methoxymethyl)-4-(4-methoxyphenyl)-1H-pyrazol-5-amine (1.4 g, 6.0 mmol) and methyl 3-(trifluoromethyl)phenyloxopropanoate (2.2 g, 1.5 eq) are dissolved in pyridine (10 mL) and stirred at 95° C. for 12 hours under reflux. Upon completion of the reaction, 2.1 g of the target compound is obtained by purification by column chromatography (ethyl acetate 100%).

reactant | 3-(Methoxymethyl)-4-(4-methoxyphenyl)-1H-pyrazol-5-amine | 6.0 mmol, 1.4 g | COCC1=NNC(=C1C1=CC=C(C=C1)OC)N | C12H15N3O2
reactant | methyl 3-(trifluoromethyl)phenyloxopropanoate | 2.2 g, 1.5 eq | FC(C=1C=C(C=CC1)CC(C(=O)OC)=O)(F)F | C11H9F3O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(methoxymethyl)-7-(3-(trifluoromethyl)phenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidin-5(4H)-one | 2.1 g | COCC1=NN2C(NC(C=C2C2=CC(=CC=C2)C(F)(F)F)=O)=C1C1=CC=C(C=C1)C | C22H18F3N3O2
